US07652053B2
cis-1-{4-[(5-Chloro-indan-2-ylmethyl)-amino]-cyclohexyl}-2-methyl-1H-benzoimidazole-5-carbonitrile
This compound was prepared from the hydrochloride salt of cis-1-(4-amino-cyclohexyl)-2-methyl-1H-benzoimidazole-5-carbonitrile and 5-chloro-indan-2-carbaldehyde. 1H-NMR is consistent with the assigned structure, LC-MS showed a single peak, C25H27ClN4 (m/e) calcd 418.1924, obsd 419.2 (M+H).

reactant | cis-1-(4-amino-cyclohexyl)-2-methyl-1H-benzoimidazole-5-carbonitrile | N[C@H]1CC[C@H](CC1)N1C(=NC2=C1C=CC(=C2)C#N)C | C15H18N4
reactant | 5-chloro-indan-2-carbaldehyde | ClC=1C=C2CC(CC2=CC1)C=O | C10H9ClO
product | cis-1-{4-[(5-Chloro-indan-2-ylmethyl)-amino]-cyclohexyl}-2-methyl-1H-benzoimidazole-5-carbonitrile | ClC=1C=C2CC(CC2=CC1)CN[C@H]1CC[C@H](CC1)N1C(=NC2=C1C=CC(=C2)C#N)C | C25H27ClN4
